US07417247B2
5-Bromo-1,2,3,4-tetraphenyl-5-p-hydroxyphenylcyclopenta-1,3-diene
44.44 g (0.08 mol) of 5-bromo-1,2,3,4-tetraphenyl-5-p-methoxyphenylcyclopenta-1,3-diene in 400 ml of concentrated HBr were refluxed for 24 h. The product was filtered off with suction and washed with water. It was recrystallized in toluene. (Yield: 35.05 g (81%); elemental analysis for C35H25OBr: found: C, 77.60%, H, 4.58%. calculated: C, 77.64%, H, 4.65%).

reactant | 5-bromo-1,2,3,4-tetraphenyl-5-p-methoxyphenylcyclopenta-1,3-diene | 0.08 mol, 44.44 g | BrC1(C(=C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OC | C36H27BrO
solvent | HBr | 400 ml | Br | BrH
product | 5-Bromo-1,2,3,4-tetraphenyl-5-p-hydroxyphenylcyclopenta-1,3-diene | BrC1(C(=C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)O | C35H25BrO
